US04066776
3-nitro-4-pyrazolecarboxamide sodium salt
A solution was made of 8 gm. of 1-sodium salt of 3-nitro-4-pyrazolecarbonitrile in methanol, and 75 ml. of 15% H2O2 was added, followed by 5 ml. of 6N NaOH. The reaction mixture was heated to 45° C., at which point external cooling was needed to maintain the mixture at 45°-50° C. After the exothermic reaction had subsided, the mixture was held at 45°-50° C. and stirred for 4 hours. Then the mixture was cooled and the methanol was evaporated under vacuum. The liquid remaining was cooled in an ice bath and the product was separated by filtration and dried under vacuum. The dry product was determined to be 8 gm. of 3-nitro-4-pyrazolecarboxamide sodium salt, m.p. >300° C.

reactant | 3-nitro-4-pyrazolecarbonitrile | [N+](=O)([O-])C1=NNC=C1C#N | C4H2N4O2
reactant | H2O2 | OO | H2O2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-nitro-4-pyrazolecarboxamide sodium salt | [Na+].[N+](=O)([O-])C1=NNC=C1C(=O)[NH-] | InChI=1S/C4H4N4O3.Na/c5-3(9)2-1-6-7-4(2)8(10)11;/h1H,(H3,5,6,7,9);/q;+1/p-1
